US04337265
A mixture of 2-amino-2,4,6-cycloheptatrien-1-one [2 g, described by W. Von E. Doering and L. H. Knox, J. Amer. Chem. Soc., 73, 828 (1951)]and diethyl ethoxymethylenemalonate (20 ml) was heated at 140° C. for 2 hr. The reaction was cooled and subjected to chromatography on silica gel using methylene chloride-ethyl acetate (4:1) as the eluant. The pure fractions were pooled to give 4.13 g of 2-[(7-oxo-1,3,5-cycloheptatrien-1-yl)aminomethylene]-propanedioic acid diethyl ester; mp 66°-68° C.; nmr (CDCl3) δ1.35 (m, 6H), 4.35 (m, 2H), 7.35 (m, 5H), 8.4 (d, 1H), 11.4 (broad, 1H); ir (CHCl3) 3230, 1700, 1665, 1580 cm-1 ; uvλmax (MeOH) 356 nm (ε13,770), 292 (9,880), 277 (10,680), 213 (17,020) with shoulders at 338 and 236 nm.

reactant | 2-amino-2,4,6-cycloheptatrien-1-one | NC=1C(C=CC=CC1)=O | C7H7NO
reactant | diethyl ethoxymethylenemalonate | 20 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | methylene chloride ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
product | 2-[(7-oxo-1,3,5-cycloheptatrien-1-yl)aminomethylene]-propanedioic acid diethyl ester | 4.13 g | C(C)OC(C(C(=O)OCC)=CNC1=CC=CC=CC1=O)=O | C15H17NO5
